US07858643B2
To a solution of 4-(4-bromo-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (500 mg, 1.515 mmol) in CH2Cl2 (3 mL) was added TFA (3 mL). The reaction was stirred at room temperature until LCMS indicated completion of the reaction. The solvents were removed in vacuo, and the residue was dissolved in MeOH (15 mL). The pH of the solution was adjusted to 9 with hydroxide resin to afford 4-(4-bromo-pyrazol-1-yl)-piperidine.

reactant | 4-(4-bromo-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1.515 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)Br | C13H20BrN3O2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-pyrazol-1-yl)-piperidine | BrC=1C=NN(C1)C1CCNCC1 | C8H12BrN3
